US05055585
In 25 ml of dichloromethane, were dissolved 5.0 g (41.3 mmol) of benzaldoxime and 4.5 g (45.9 mmol) of 1-hexyne-3-ol. Under ice cooling, 29.0 g of a 12.0% aqueous solution of sodium hypochlorite were added dropwise to the solution over 30 minutes. After completion of the dropwise addition, they were reacted at 20° C. for 2 hours. After completion of the reaction, the reaction mixture was extracted with dichloromethane and the organic layer was washed with water. The organic layer was dried over anhydrous sodium sulfate and the solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (eluent: chloroform), whereby the target compound, namely, 5-(1-hydroxybutyl)-3-phenylisooxazole was obtained as an oil.

reactant | benzaldoxime | 41.3 mmol, 5.0 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | 1-hexyne-3-ol | 45.9 mmol, 4.5 g | C#CC(CCC)O | C6H10O
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-(1-hydroxybutyl)-3-phenylisooxazole | OC(CCC)C1=CC(=NO1)C1=CC=CC=C1 | C13H15NO2
